US07820654B2
Step (ii). Synthesis of (2,6-diphenyl-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine
(2,6-Diphenyl-pyrimidin-4-yl)-(4-methylsulfanyl-phenyl)-amine (0.17 g, 0.46 mmol) was oxidized with oxone (0.84 g, 1.3 mmol) in acetone-water (2:1, 9 mL) at room temperature for 5 minutes. Solid was filtered and dried.

reactant | (2,6-Diphenyl-pyrimidin-4-yl)-(4-methylsulfanyl-phenyl)-amine | 0.46 mmol, 0.17 g | C1(=CC=CC=C1)C1=NC(=CC(=N1)NC1=CC=C(C=C1)SC)C1=CC=CC=C1 | C23H19N3S
reactant | oxone | 1.3 mmol, 0.84 g | OOS(=O)[O-].[K+]
reactant | acetone water | 9 mL | CC(=O)C.O
product | (2,6-diphenyl-pyrimidin-4-yl)-(4-methanesulfonyl-phenyl)-amine | C1(=CC=CC=C1)C1=NC(=CC(=N1)NC1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1 | C23H19N3O2S
